US04048328
Dimethyl 3,3-dimethyl-2-oxoheptyl phosphate [(AlkO)2POCH2COCR3R4 -(CH2)nCH3 in which Alk is CH3, R3 and R4 = CH3 and n = 3]
Dimethyl methylphosphonate (14.88 g) is dissolved in dry tetrahydrofuran (THF, 34 ml) under a nitrogen atmosphere. The solution is cooled to -78° C. Butyllithium (7.68 g, 52 ml of 2.3 molar solution, 3 equiv.) is added very slowly during 1 hour. The mixture is stirred at -78° C for 15 minutes. A solution of 2,2-dimethylhexanoic acid methyl ester (6.32 g) in dry THF (16 ml) is added to the cold solution over a period of 1 hour. The mixture is stirred for 30 minutes and then allowed to warm up to room temperature. The reaction mixture is diluted with ether. Dilute (10%) hydrochloric acid (30 ml) is added and the reaction mixture shaken well. The organic phase is separated and washed several times with water, dried (MgSO4) and the solvent removed. The residue is distilled under reduced pressure to give the title compound, b.p. 110° - 120° C/0.1mm, γmaxfilm 1700, 1250, 1020 cm-1.

reactant | Dimethyl methylphosphonate | 14.88 g | CP(OC)(OC)=O | C3H9O3P
reactant | Butyllithium | 2.3 molar, 52 ml, 7.68 g, 3 equiv. | C(CCC)[Li]
reactant | 2,2-dimethylhexanoic acid methyl ester | 6.32 g | COC(C(CCCC)(C)C)=O | C9H18O2
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | tetrahydrofuran | 34 ml | O1CCCC1 | C4H8O
reactant | THF | 16 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Dimethyl 3,3-dimethyl-2-oxoheptyl phosphate | P(=O)(OC)(OC)OCC(C(CCCC)(C)C)=O | C11H23O5P
